US04732984
2-[4-[4-(6-chloro-2-pyrazinyl)-1-piperazinyl]butyl]-3a,4,7,7a-tetrahydro-5,6-dimethyl-1,2-benzisothiazol-3(2H)-one 1,1-dioxide, dihydrochloride
The title compound is prepared using the procedure of Example 1 using 3a,4,7,7a-tetrahydro-5,6-dimethyl-1,2-benzisothiazol-3-(2H)-one 1,1-dioxide instead of 3a,4,7,7a-tetrahydro-4,7-methano-1,2-benzisothiazol-3(2H)-one 1,1-dioxide and 1-(6-chloro-2-pyrazinyl)piperazine instead of 4-(2-pyrimidinyl)piperazine. The final product is converted to its dihydrochloride salt, mp 158°-160° C.

reactant | 3a,4,7,7a-tetrahydro-5,6-dimethyl-1,2-benzisothiazol-3-(2H)-one 1,1-dioxide | CC1=C(CC2C(C(NS2(=O)=O)=O)C1)C | C9H13NO3S
reactant | 1-(6-chloro-2-pyrazinyl)piperazine | ClC1=CN=CC(=N1)N1CCNCC1 | C8H11ClN4
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 2-[4-[4-(6-chloro-2-pyrazinyl)-1-piperazinyl]butyl]-3a,4,7,7a-tetrahydro-5,6-dimethyl-1,2-benzisothiazol-3(2H)-one 1,1-dioxide, dihydrochloride | Cl.Cl.ClC1=CN=CC(=N1)N1CCN(CC1)CCCCN1S(C2C(C1=O)CC(=C(C2)C)C)(=O)=O | InChI=1S/C21H30ClN5O3S.2ClH/c1-15-11-17-18(12-16(15)2)31(29,30)27(21(17)28)6-4-3-5-25-7-9-26(10-8-25)20-14-23-13-19(22)24-20;;/h13-14,17-18H,3-12H2,1-2H3;2*1H
